US07635711B2
Synthesis of 2,6-Dichloro-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]4-trifluoromethylbenzenesulfonamide
A mixture of 100 mg (0.44 mmol) of 2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethylamine and 137 mg (0.44 mmol) of 2,6-dichloro-4-(trifluoromethyl)benzenesulfonyl chloride in 8 mL of pyridine was stirred at room temperature for 2 hours, and warmed at 70° C. for 18 hours. The mixture was cooled to room temperature and diluted with 1 M HCl until acidic and extracted with ethyl acetate. The combined organic layers were washed with 1 N aqueous HCl, saturated aqueous sodium bicarbonate solution, and brine, dried over sodium sulfate, decanted, and concentrated in vacuo. The crude material was crystallized from ether-hexanes to afford 40 mg (18%) of the title compound as a colorless powder. MS: m/z 505 (M), 507 (M+2).

reactant | 2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethylamine | 0.44 mmol, 100 mg | FC(C(CC1=CNC2=CC=CC=C12)N)(F)F | C11H11F3N2
reactant | 2,6-dichloro-4-(trifluoromethyl)benzenesulfonyl chloride | 0.44 mmol, 137 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)S(=O)(=O)Cl | C7H2Cl3F3O2S
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1 M | Cl | ClH
product | 2,6-Dichloro-N-[2,2,2-trifluoro-1-(1H-indol-3-ylmethyl)ethyl]4-trifluoromethylbenzenesulfonamide | 40 mg, 18% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)S(=O)(=O)NC(C(F)(F)F)CC1=CNC2=CC=CC=C12 | C18H12Cl2F6N2O2S
